US04067903
138 parts of phenylglycol, 214 parts of m-toluidine and 15 parts of diphenyl phosphite are mixed whilst stirring. The reaction is carried out using the method described in Example 9. 193 parts of N-(2-phenoxyethyl)-m-toluidine, corresponding to a yield of 85% of theory, are obtained at a boiling point of 186° - 192° C/5 mm Hg.

reactant | phenylglycol | C1=CC=C(C=C1)OCCO | C8H10O2
reactant | m-toluidine | NC1=CC(=CC=C1)C | C7H9N
reactant | diphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)[O-]
product | N-(2-phenoxyethyl)-m-toluidine | yield of 85% | O(C1=CC=CC=C1)CCNC1=CC(=CC=C1)C | C15H17NO
